US06809199B2
A solution of N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methyl-1H-imidazole-4-sulfonamide (114 mg, 0.17 mmol) in 1.5 mL of trifluoroacetic acid was stirred at rt overnight. The resulting reaction mixture was concentrated under reduced pressure, diluted with CH2Cl2 and washed with saturated aqueous NaHCO3 followed by brine. The organic layer was dried with Na2SO4 and concentrated under reduced pressure. The crude solid was purified by preparatory thin-layer chromatography, eluting with 90:10 CH2Cl2-2M NH3 in methanol to yield N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methyl-1H-imidazole-4-sulfonamide. Mass spectrum (ESI) 562 (M+1). 1H NMR (500 MHz, DMSO-d6): δ 3.67 (s, 3H); 3.93 (½ ABq, J=14.9 Hz, 1H); 3.99 (½ ABq, J=14.9 Hz, 1H); 4.02 (s, 1H); 5.95 (d, J=2.1 Hz, 1H); 6.55 (d, J=1.9 Hz, 1H); 7.30 (m, 2H); 7.35 (s, 1H); 7.43 (m, 2H); 7.58 (m, 2H); 7.69 (s, 1H); 7.72 (d, J=8.2 Hz, 2H).

reactant | N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methyl-1H-imidazole-4-sulfonamide | 0.17 mmol, 114 mg | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)NS(=O)(=O)C=1N=CN(C1)C)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C32H26Cl3N5O4S
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]-1-methyl-1H-imidazole-4-sulfonamide | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)NS(=O)(=O)C=1N=CN(C1)C)C1=C(C=CC=C1Cl)Cl)=O | C24H18Cl3N5O3S
